US05631257
1-Ethoxycarbonylmethyl-1-methyl-4-(benzoxazol-2-yl)piperazinium bromide
A 110 mg portion of 2-(4-methyl-1-piperazinyl)-benzoxazole was dissolved in 3 ml of DMF. Under cooling with ice, 101 mg of bromoethyl acetate was added to the thus prepared solution, and the reaction was carried out for 1 hour at the same temperature and then for 84 hours at room temperature. The reaction solution was concentrated under a reduced pressure, and 5 ml of acetone was added to the resulting residue. The precipitate thus formed was collected by filtration, washed with acetone and then dried to obtain 167 mg of the title compound.

reactant | 2-(4-methyl-1-piperazinyl)-benzoxazole | CN1CCN(CC1)C=1OC2=C(N1)C=CC=C2 | C12H15N3O
reactant | bromoethyl acetate | 101 mg | C(C)(=O)OCCBr | C4H7BrO2
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 1-Ethoxycarbonylmethyl-1-methyl-4-(benzoxazol-2-yl)piperazinium bromide | 167 mg | [Br-].C(C)OC(=O)C[N+]1(CCN(CC1)C=1OC2=C(N1)C=CC=C2)C | InChI=1S/C16H22N3O3.BrH/c1-3-21-15(20)12-19(2)10-8-18(9-11-19)16-17-13-6-4-5-7-14(13)22-16;/h4-7H,3,8-12H2,1-2H3;1H/q+1;/p-1
